US06605620B1
Synthesis of 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyloxy]piperidine Trihydrochloride
4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyloxy]piperidine (70 mg), 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (22 mg), potassium carbonate (56 mg) and potassium iodide (40 mg) were suspended in acetonitrile (5 mL). The mixture was stirred at room temperature for 5 hr and evaporated. Chloroform and water were added to the residual oil and the organic layer was separated. Aqueous layer was then extracted with chloroform and the organic layers were combined, dried over anhydrous magnesium sulfate and evaporated. The residue was applied to a column of silica gel using chloroform-methanol (40:1) as an eluent. Fractions containing the product were collected and evaporated. The title compound was obtained by converting the free base to a trihydrochloride.

reactant | 4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyloxy]piperidine | 70 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)COC1CCNCC1 | C20H26N2O4
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 22 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | potassium carbonate | 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyloxy]piperidine Trihydrochloride | Cl.Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)OCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C35H41N3O7.3ClH/c1-39-30-17-25(18-31(40-2)34(30)43-5)28-15-23(7-11-36-28)21-38-13-9-27(10-14-38)45-22-24-8-12-37-29(16-24)26-19-32(41-3)35(44-6)33(20-26)42-4;;;/h7-8,11-12,15-20,27H,9-10,13-14,21-22H2,1-6H3;3*1H
